US09447083B2
2-Bromo-4-methoxyphenol (400 mg, 1.97 mmol), 2-furanylboronic acid (287 mg, 2.56 mmol), Pd(dppf)Cl2 (81 mg, 0.1 mmol) and sodium carbonate (626 mg, 5.91 mmol) were dissolved in DME:water=4 mL:2 mL, followed by stirring in microwave at 120° C. for 20 minutes. After the completion of the reaction, the reaction mixture was filtered using Celite. The filtrate was added with water, and extracted with ethyl acetate. The obtained organic layer was dried over magnesium sulfate, and purified by column chromatography (hexane:ethyl acetate=9:1) to obtain 2-(furan-2-yl)-4-methoxyphenol (212 mg, 57%).

reactant | 2-Bromo-4-methoxyphenol | 1.97 mmol, 400 mg | BrC1=C(C=CC(=C1)OC)O | C7H7BrO2
reactant | 2-furanylboronic acid | 2.56 mmol, 287 mg | O1C(=CC=C1)B(O)O | C4H5BO3
reactant | sodium carbonate | 5.91 mmol, 626 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | DME | COCCOC | C4H10O2
catalyst | Pd(dppf)Cl2 | 0.1 mmol, 81 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(furan-2-yl)-4-methoxyphenol | 212 mg, 57% | O1C(=CC=C1)C1=C(C=CC(=C1)OC)O | C11H10O3
